US07253190B2
Following the procedure described in EXAMPLE 1 for the synthesis of 2-[2-(3-chlorophenyl)-2H-tetrazol-5-yl]pyridine, 4-aminopyridine (56.5 mg, 0.6 mmol) and 2-pyridinecarboxaldehyde (64.2 mg, 0.6 mmol) were employed to obtain 2-[2-(4-pyridyl)-2H-tetrazol-5-yl]pyridine as an orange solid.

reactant | 2-[2-(3-chlorophenyl)-2H-tetrazol-5-yl]pyridine | ClC=1C=C(C=CC1)N1N=C(N=N1)C1=NC=CC=C1 | C12H8ClN5
reactant | 4-aminopyridine | 0.6 mmol, 56.5 mg | NC1=CC=NC=C1 | C5H6N2
reactant | 2-pyridinecarboxaldehyde | 0.6 mmol, 64.2 mg | N1=C(C=CC=C1)C=O | C6H5NO
product | 2-[2-(4-pyridyl)-2H-tetrazol-5-yl]pyridine | N1=CC=C(C=C1)N1N=C(N=N1)C1=NC=CC=C1 | C11H8N6
